US07459562B2
B) tert-Butyl 4-(2-(trimethylsilyl)ethynyl)cyclohex-3-enylcarbamate
A mixture of 4-(tert-butoxycarbonyl)cyclohex-1-enyl trifluoromethanesulfonate (170 mg, 0.49 mmol), trimethylsilylacetylene (138 μL, 0.98 mmol), Et3N (0.68 mL) and THF (8 mL) in a reaction flask was purged with argon and treated in turn with CuI (14 mg, 0.072 mmol) and (Ph3P)4Pd (27 mg, 0.024 mmol). The reaction mixture was stirred at room temperature for 25 min, and then diluted with EtOAc (50 mL), washed with saturated aq. NaHCO3 solution and brine, dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography on SiO2 eluting with 0-25% EtOAc/hexanes to give the title compound (116 mg, 81%) as a yellow solid. 1H NMR (DMSO-d6) δ 6.06 (s, 1H), 4.50 (s, 1H), 3.76 (s, 1H), 2.46 (d, 1H, J=18.8 Hz), 2.36-2.14 (m, 2H), 2.00-1.78 (m, 2H), 1.66-1.50 (m, 1H), 1.43 (s, 9H), 0.27-0.05 (m, 9H).

reactant | 4-(tert-butoxycarbonyl)cyclohex-1-enyl trifluoromethanesulfonate | 0.49 mmol, 170 mg | FC(S(=O)(=O)OC1=CCC(CC1)C(=O)OC(C)(C)C)(F)F | C12H17F3O5S
reactant | trimethylsilylacetylene | 0.98 mmol, 138 μL | C[Si](C)(C)C#C | C5H10Si
reactant | Et3N | 0.68 mL | CCN(CC)CC | C6H15N
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.072 mmol, 14 mg | [Cu]I
catalyst | (Ph3P)4Pd | 0.024 mmol, 27 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 4-(2-(trimethylsilyl)ethynyl)cyclohex-3-enylcarbamate | 116 mg, 81% | C[Si](C#CC1=CCC(CC1)NC(OC(C)(C)C)=O)(C)C | C16H27NO2Si
